US06423727B1
Acetyl chloride (50 mL, 0.70 mmol) is added slowly to a solution of 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-[4-(piperidin-3-yl)-phenyl]-propionic acid ethyl ester (277 mg, 0.57 mmol) and 11 mL (0.79 mmol) of Et3N in 2 mL of CH2Cl2. The reaction mixture is stirred at 0° C. for 2 h, and then partitioned between saturated aqueous NaHCO3 solution and CH2Cl2. The organic phase is washed with brine, dried over MgSO4, filtered, and concentrated. The residue is purified by chromatography on silica gel (EtOAc) to furnish 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-[4-(1-acetyl-piperidin-3-yl)-phenyl]-propionic acid ethyl ester; 1H NMR (300 MHz, CDCl3) δ7.00-7.15 (m, 4 H), 4.80-4.90 (m, 1 H), 4.70 (br t, 2 H), 4.15 (q, 2 H), 3.00-3.15 (m, 3 H), 2.45-2.70 (m, 2 H), 2.12, 2.08 (s each, 3 H) 1.95-2.40 (m, 6 H), 1.50-1.95 (m, 8 H), 1.40 (s, 9 H), 1.20 (t, 3 H).

reactant | Acetyl chloride | 0.70 mmol, 50 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-[4-(piperidin-3-yl)-phenyl]-propionic acid ethyl ester | 0.57 mmol, 277 mg | C(C)OC(C(CC1=CC=C(C=C1)C1CNCCC1)NC(=O)C1(CCCC1)NC(=O)OC(C)(C)C)=O | C27H41N3O5
reactant | Et3N | 0.79 mmol, 11 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[(1-tert-butoxycarbonylamino-cyclopentanecarbonyl)-amino]-3-[4-(1-acetyl-piperidin-3-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)C1CN(CCC1)C(C)=O)NC(=O)C1(CCCC1)NC(=O)OC(C)(C)C)=O | C29H43N3O6
